US07192950B2
2-[1-(3,4-Dimethoxy-benzyl)-7.8-dimethoxy-1,3,4,5-tetrahydro-benzo[c]azepin-2-yl]-N-(2-oxo-tetrahydro-furan-3-yl)-2-phenyl-acetamide
prepared by reaction of [1-(3,4-dimethoxy-benzyl)-7,8-dimethoxy-1,3,4,5-tetrahydro-benzo[c]azepin-2-yl]-phenyl-acetic acid with 2-amino-4-butyrolactone hydrobromide.

reactant | [1-(3,4-dimethoxy-benzyl)-7,8-dimethoxy-1,3,4,5-tetrahydro-benzo[c]azepin-2-yl]-phenyl-acetic acid | COC=1C=C(CC2N(CCCC3=C2C=C(C(=C3)OC)OC)C(C(=O)O)C3=CC=CC=C3)C=CC1OC | C29H33NO6
reactant | 2-amino-4-butyrolactone hydrobromide | Br.NC1C(=O)OCC1
product | 2-[1-(3,4-Dimethoxy-benzyl)-7.8-dimethoxy-1,3,4,5-tetrahydro-benzo[c]azepin-2-yl]-N-(2-oxo-tetrahydro-furan-3-yl)-2-phenyl-acetamide | COC=1C=C(CC2N(CCCC3=C2C=C(C(=C3)OC)OC)C(C(=O)NC3C(OCC3)=O)C3=CC=CC=C3)C=CC1OC | C33H38N2O7
